US06455708B1
Preparation of N-(2-Cyanoethyl)-5-fluoro-4-fluoromethyl-4-(4-trifluoromethylphenoxy)-2-pentynamide
An amount (61 mg) of 1-fluoro-2-fluoromethyl-3-butyn-2-yl 4-trifluoromethylphenyl ether was dissolved in t-butyl methyl ether (2 ml); to the solution, 1.69 M n-butyllithium (0.148 ml) was added at −70° C. under a nitrogen atmosphere and the mixture was stirred for 10 minutes. To the reaction mixture, 2-cyanoethyl isocyanate (28 mg) was added and the resulting mixture was stirred at −70° C. for 10 minutes. To the reaction mixture, a saturated aqueous solution of ammonium chloride was added, followed by extraction with hexane/ethyl acetate (1/1); the resulting organic layers were washed with a 1 N aqueous solution of sodium hydroxide and a saturated aqueous solution of sodium chloride, dried with anhydrous sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluent; hexane/ethyl acetate=3/2) to give the titled compound (45 mg) as a colorless oil.

reactant | 1-fluoro-2-fluoromethyl-3-butyn-2-yl 4-trifluoromethylphenyl ether | 61 mg | FC(C1=CC=C(C=C1)OC(CF)(C#C)CF)(F)F | C12H9F5O
reactant | n-butyllithium | 1.69 M, 0.148 ml | C(CCC)[Li]
reactant | 2-cyanoethyl isocyanate | 28 mg | C(#N)CCN=C=O | C4H4N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | t-butyl methyl ether | 2 ml | COC(C)(C)C | C5H12O
product | N-(2-Cyanoethyl)-5-fluoro-4-fluoromethyl-4-(4-trifluoromethylphenoxy)-2-pentynamide | 45 mg | C(#N)CCNC(C#CC(CF)(OC1=CC=C(C=C1)C(F)(F)F)CF)=O | C16H13F5N2O2
